US05760032
Water (20 ml) and dioxane (20 ml) were added to N-(4-(2-chlorophenyl)-2-ethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepin-9-ylmethyl)-3,4-dichlorobenzamide (3.0 g), and conc. sulfuric acid (1.2 ml) was dropwise added with vigorous stirring. Then, the mixture was stirred at 80° C. for 1.5 hours. Sodium nitrite (3.9 g) was added, and the mixture was further stirred for 1 hour. A saturated aqueous sodium hydrogencarbonate solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was dried over magnesium sulfate, and the solvent was evaporated. The residue was purified by silica gel column chromatography (developing solvent:ethyl acetate) and recrystallized from a mixed solvent of ethyl acetate-hexane to give 0.9 g of N-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-3-hydroxymethyl[1,2,4]triazol-5-ylmethyl)-3,4-dichlorobenzamide.

reactant | N-(4-(2-chlorophenyl)-2-ethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepin-9-ylmethyl)-3,4-dichlorobenzamide | 3.0 g | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)CC)C(=NN2)CNC(C2=CC(=C(C=C2)Cl)Cl)=O | C24H18Cl3N5OS
reactant | sulfuric acid | 1.2 ml | S(O)(O)(=O)=O | H2O4S
reactant | Sodium nitrite | 3.9 g | N(=O)[O-].[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | Water | 20 ml | O | H2O
product | N-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-3-hydroxymethyl[1,2,4]triazol-5-ylmethyl)-3,4-dichlorobenzamide | 0.9 g | ClC1=C(C(=O)C2=C(SC(=C2)CC)N2C(=NN=C2CNC(C2=CC(=C(C=C2)Cl)Cl)=O)CO)C=CC=C1 | C24H19Cl3N4O3S
